US06498172B1
3-(3-{[(2,3-Dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared from 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt, of Preparation 44, and 2,3-dihydro-benzofuran-5-carbaldehyde using the method described in Example 1, Step A except the imine was formed in MeOH at refulx over 3 h. 1H NMR (400 MHz, CDCl3) δ 7.23 (m, 4H), 7.07 (m, 2H), 6.73 (d, 1H), 4.54 (t, 2H), 3.77 (s, 2H), 3.71 (s, 2H), 3.66 (s, 3H), 3.18 (t, 2H), 2.94 (t, 2H), 2.63 (t, 2H); MS 326 (M+1).

reactant | 3-(3-aminomethyl-phenyl)-propionic acid methyl ester hydrochloride salt | Cl.COC(CCC1=CC(=CC=C1)CN)=O
reactant | 2,3-dihydro-benzofuran-5-carbaldehyde | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
solvent | MeOH | CO | CH4O
product | 3-(3-{[(2,3-Dihydro-benzofuran-5-ylmethyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC=1C=CC2=C(CCO2)C1)=O | C20H23NO3
